US08466293B2
26.3 g (0.135 mol) of 2,2-difluoro-1-iodoethane, 10 g (0.067 mol) of 1-(6-chloropyridin-3-yl)methanamine and 8.2 g of triethylamine are initially charged with 31 g of N-methylpyrrolidone. The mixture is heated to 100° C. for 50 minutes and then cooled again to 80° C. The N-methylpyrrolidone is distilled off at 80° C. under reduced pressure and the reaction mixture is poured onto 50 ml of water. 3 ml of 45% sodium hydroxide solution are used to adjust the pH to 12, and the mixture is then extracted twice with 30 ml of toluene. The product is subsequently finely distilled under reduced pressure. This gives 11.1 g of N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethanamine (corresponds to 79.5% yield).

reactant | 2,2-difluoro-1-iodoethane | 0.135 mol, 26.3 g | FC(CI)F | C2H3F2I
reactant | 1-(6-chloropyridin-3-yl)methanamine | 0.067 mol, 10 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
reactant | triethylamine | 8.2 g | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 31 g | CN1C(CCC1)=O | C5H9NO
product | N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethanamine | 11.1 g, 79.5% yield | ClC1=CC=C(C=N1)CNCC(F)F | C8H9ClF2N2
